US07071201B2
(13-2) N-Isopropyl-4-vinylphenylacetamide
N-Isopropyl-4-bromophenylacetamide (1.0 g) and vinyltributyltin (1.4 ml) were dissolved in toluene (12 ml). After adding tetrakistriphenylphosphinepalladium (0.5 g) thereto, the resultant mixture was heated under reflux for 4 hr. Then it was allowed to cool and diluted with ethyl acetate. The resulting solid was filtered off and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate system) to give colorless crystals (0.578 g) of the title compound (yield: 72.8%).

reactant | N-Isopropyl-4-bromophenylacetamide | 1.0 g | C(C)(C)NC(CC1=CC=C(C=C1)Br)=O | C11H14BrNO
reactant | vinyltributyltin | 1.4 ml | C(=C)[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakistriphenylphosphinepalladium | 0.5 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-Isopropyl-4-vinylphenylacetamide | yield: 72.8% | C(C)(C)NC(CC1=CC=C(C=C1)C=C)=O | C13H17NO
